### PR TITLE
refactor: replace `padicValNat` with `multiplicity`

### PR DESCRIPTION
**Pull request by tb65536**
This doesn't fully deprecate `padicValNat`, but gets most of the way there. Full deprecation will be in a follow-up PR.

I directly replaced "padicValNat" with "multiplicity" in the declaration names. A few declarations of the form `padicValNat.foo` were manually renamed to `Nat.multiplicity_foo`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/Padics/PadicVal/Defs.lean [hunk 1]
```diff
@@ -32,49 +32,55 @@ open Nat
...
-theorem eq_zero_iff {n : ℕ} : padicValNat p n = 0 ↔ p = 1 ∨ n = 0 ∨ ¬p ∣ n := by
+theorem Nat.multiplicity_eq_zero_iff {n : ℕ} : multiplicity p n = 0 ↔ p = 1 ∨ n = 0 ∨ ¬p ∣ n := by
   rcases eq_or_ne n 0 with rfl | hn₀; · simp
   rcases eq_or_ne p 1 with rfl | hp₁; · simp
-  simpa [*] using pow_dvd_iff_le_padicValNat (k := 1) hp₁ hn₀ |>.symm |>.not
+  simpa [*] using pow_dvd_iff_le_multiplicity (k := 1) hp₁ hn₀ |>.symm |>.not
 
-end padicValNat
+@[deprecated (since := "2026-09-11")] alias padicValNat.eq_zero_iff :=
+  Nat.multiplicity_eq_zero_iff
```
Comment (tb65536) [inline Mathlib/NumberTheory/Padics/PadicVal/Defs.lean:86]: Note to reviewers: this name was changed manually, rather than simply replacing `padicValNat` with `multiplicity`.

File: Mathlib/NumberTheory/Padics/PadicVal/Basic.lean [hunk 2]
```diff
@@ -160,42 +168,49 @@ theorem of_int_multiplicity {z : ℤ} :
...
+/-- `padicValRat` coincides with `multiplicity`. -/
 @[norm_cast]
-theorem padicValRat_of_nat (n : ℕ) : ↑(padicValNat p n) = padicValRat p n := by simp
+theorem padicValRat_of_nat (n : ℕ) : ↑(multiplicity p n) = padicValRat p n := by simp
 
 @[simp]
-theorem padicValNat_self [Fact p.Prime] : padicValNat p p = 1 :=
-  padicValNat.self Fact.out
+theorem Nat.multiplicity_self [Fact p.Prime] : multiplicity p p = 1 :=
+  multiplicity.self Fact.out
```
Comment (tb65536) [inline Mathlib/NumberTheory/Padics/PadicVal/Basic.lean]: Note to reviewers: this name was changed manually, rather than simply replacing padicValNat with multiplicity.

File: Archive/Imo/Imo2025Q3.lean [hunk 3]
```diff
@@ -130,25 +130,25 @@ lemma not_id_two_pow (hf : IsBonza f) (hnf : ¬ ∀ x > (0 : ℕ), f x = x) :
 end IsBonza
 
 /-- An example of a bonza function achieving the maximum number of values of `c`. -/
-def fExample : ℕ → ℕ := fun x ↦
+noncomputable def fExample : ℕ → ℕ := fun x ↦
```
Comment (b-mehta) [inline Archive/Imo/Imo2025Q3.lean:133]: This is interesting - are we intending that `multiplicity` be used in place of `Nat.factorization` when both would work?

File: Mathlib/NumberTheory/Padics/PadicVal/Basic.lean [hunk 4]
```diff
@@ -70,33 +70,41 @@ universe u
 open Nat Rat
 open scoped Finset
 
-namespace padicValNat
+namespace multiplicity
```
Comment (b-mehta) [inline Mathlib/NumberTheory/Padics/PadicVal/Basic.lean]: Optional: the `padicValNat._` naming style is weird and basically only used here. This refactor would be a perfect time to sort it out, since you're already deprecating the old names, and doing it now would avoid churn. But I realise this might be annoying to do here. What do you think?

**Review by b-mehta — COMMENTED** [review]
I have reviewed the first 5 and last 4 files in the diff and agree with everything, but I have two questions. These are both non-blocking, in case another maintainer sees this before I get another chance to look!

File: Archive/Imo/Imo2025Q3.lean (hunk 3 above)
Comment (tb65536) [reply Archive/Imo/Imo2025Q3.lean:133]: I'm not sure about preference between the two. Right now I'm just doing a basic find and replace "padicValNat" -> "multiplicity" for the purposes of deprecation. In general, I suspect that `multiplicity` might still be preferred as the more general definition with more fleshed out API, but I'm not sure.

File: Mathlib/NumberTheory/Padics/PadicVal/Basic.lean (hunk 4 above)
Comment (tb65536) [reply Mathlib/NumberTheory/Padics/PadicVal/Basic.lean]: Fair enough. I'll move these to the `Nat` namespace with a `multiplicity_` prefix.

**Comment by b-mehta** [comment]
This looks good so far - I've now reviewed everything except for the file with the big change

**Review by Multramate — APPROVED** [review]
I'm not Bhavik but this LGTM
